US07951810B2
Step a: N-[2-(aminomethyl)benzyl]acetamide
To a solution of tert-butyl[2-(aminomethyl)benzyl]carbamate (0.2 g, 0.93 mmol) and triethylamine (260 μL, 1.9 mmol) in DCM (10 mL) was added AC2O (0.285 g, 0.00279 mol) dropwise and the reaction stirred for 2 h at r.t. The reaction was concentrated, the residue dissolved in EtOAc (20 mL) then washed with saturated aq NaHCO3 (2×10 mL). The organic layer was dried (Na2SO4) and concentrated to give the crude product (0.25 g, 90%). To a solution of this in DCM (5 mL) was added 2 mL of 4M HCl/dioxane and the solution was stirred for 1 h. The reaction was concentrated to give the title compound (0.16 g, 95%) which was used without further purification.

reactant | tert-butyl[2-(aminomethyl)benzyl]carbamate | 0.93 mmol, 0.2 g | C(C)(C)(C)OC(NCC1=C(C=CC=C1)CN)=O | C13H20N2O2
reactant | triethylamine | 1.9 mmol, 260 μL | C(C)N(CC)CC | C6H15N
reactant | HCl dioxane | 4M, 2 mL | Cl.O1CCOCC1
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-[2-(aminomethyl)benzyl]acetamide | 0.16 g, 95% | NCC1=C(CNC(C)=O)C=CC=C1 | C10H14N2O
